US06589984B1
Pyridine (100 mg) was added to a solution of 4-acetyloxy-3,5-dimethyl-6-(6-hydroxybenzofuran-2-yl)-2H-pyran-2-one (385 mg) in CH2Cl2 (10 ml), and after stirring at room temperature for one hour, trifluoromethanesulfonic anhydride (415 mg) was slowly added while cooling on ice and the mixture was stirred at room temperature for 2 hours. A saturated NaHCO3 aqueous solution (10 ml) was added to the reaction solution, extraction was performed with AcOEt, and the organic layer was dried with Na2SO4 and then filtered and concentrated. The residue was purified by silica gel column chromatography (n-hexane/AcOEt=2/1) to obtain 4-acetyloxy-3,5-dimethyl-6-(6-(trifluoromethanesulfonyloxy) benzofuran-2-yl)-2H-pyran-2-one.

reactant | Pyridine | 100 mg | N1=CC=CC=C1 | C5H5N
reactant | 4-acetyloxy-3,5-dimethyl-6-(6-hydroxybenzofuran-2-yl)-2H-pyran-2-one | 385 mg | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=CC(=C2)O)=O)C | C17H14O6
reactant | trifluoromethanesulfonic anhydride | 415 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-acetyloxy-3,5-dimethyl-6-(6-(trifluoromethanesulfonyloxy) benzofuran-2-yl)-2H-pyran-2-one | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=CC(=C2)OS(=O)(=O)C(F)(F)F)=O)C | C18H13F3O8S
